US07432266B2
NaH (1.3 g, 60% dispersion in mineral oil, 0.033 mol) and tetrahydrofuran (223 mL) were mixed in a 1-necked flask and cooled to 0° C. To this was added dropwise a mixture of 3-ethyl-N-methoxy-N-methyl-1H-indazole-6-carboxamide (2.6 g, 0.011 mol) in tetrahydrofuran (60 mL), and the mixture was stirred at 0° C. for 1 hour. [β-(Trimethylsilyl)ethoxy]methyl chloride (2.4 mL, 0.013 mol) was then added and the reaction mixture was allowed to warm to room temperature. The resulting mixture was partitioned between water (50 mL) and ethyl acetate (50 mL). The layers were separated and the organics were washed with brine (25 mL), dried (sodium sulfate) and concentrated in vacuo to afford 4.0 g (quantitative yield) of 3-ethyl-N-methoxy-N-methyl-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-indazole-6-carboxamide, which was used without further purification.

reactant | NaH | 0.033 mol, 1.3 g | [H-].[Na+]
reactant | 3-ethyl-N-methoxy-N-methyl-1H-indazole-6-carboxamide | 0.011 mol, 2.6 g | C(C)C1=NNC2=CC(=CC=C12)C(=O)N(C)OC | C12H15N3O2
reactant | [β-(Trimethylsilyl)ethoxy]methyl chloride | 0.013 mol, 2.4 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 223 mL | O1CCCC1 | C4H8O
product | 3-ethyl-N-methoxy-N-methyl-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-indazole-6-carboxamide | 4.0 g, quantitative yield | C(C)C=1N(N=C2C=C(C=CC12)C(=O)N(C)OC)COCC[Si](C)(C)C | C18H29N3O3Si
